reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O+:1](=[C-:2][H:8])[C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12],110.028567210606
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],56.13124927814801
[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](#[C:2][C:3]([C:4](=[C:5]=[C:6]([H:10])[H:12])[H:11])([H:8])[H:9])[H:7],80.8703401648462
[C:1](#[C-:2])[C+:3]=[N:4][H:5]>>[C:1](#[C:2][H:5])[C:3]#[N:4],61.8204723445614
[N:1]([C@@:2]1([O:3][H:12])[C:4]([H:9])([H:10])[C@@:5]1([O:6][H:13])[H:11])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],44.52439972508979
[C:1]([C:2](=[C:4]([N:5]([C+:6]([O-:7])[H:16])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10].[O:3]([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],54.89174461182769
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([O:3][H:12])[C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14],84.0572796890061
[C:1]([C:2]([O:3][C:6](=[C:5]=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],70.47670813710808
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])[H:9].[C:3]([H:8])([H:11])([H:12])[H:13],112.300811620161
[C:1]([C-:2]([N+:3]1=[C:4]([H:13])[C:5]([H:11])([H:14])[N:6]=[C:7]1[H:15])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],49.89113940686871
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:6]=[N:7][H:14])[H:11])([H:8])([H:9])[H:10].[C:3](=[C:4]([O:5][H:16])[H:15])([H:12])[H:13],70.122449588227
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[C:4](\[O:5][H:15])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:13],90.999593374634
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](\[O:4][H:14])(=[C:5](/[C:6]#[N:7])[H:16])[H:13].[H:10][H:15],95.361946323213
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2]=[C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])[H:8])[H:9],92.6019023138485
[C:1]([C:2](=[O:3])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:11])[H:12]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],49.64878411118448
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]1[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:13])[H:17])([H:15])[H:16],76.96216785078771
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1](=[c:2]1[n-:3][n:4]([H:9])[c:5]([H:10])[n+:6]1[H:7])[H:8],63.286013530296295
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C-:4][H:12])[C:5]#[O+:6])([H:10])[H:11])([H:7])([H:8])[H:9],57.039079615881604
[C:1]([C:2](=[C:3]([H:9])[H:10])[O:5][H:15])([H:6])([H:7])[H:8].[C:4]([H:11])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][H:15])([H:6])([H:7])[H:8],90.8732179227992
[C:1]([C:2]([C:5]([C:3](=[O:4])[H:13])([C:6](=[O:7])[H:17])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],88.2528537826118
[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7]>>[O:1]([N:3]=[C:2]=[N:6][C:5](=[N:4][H:8])[H:9])[H:7],98.6041718489529
[C:4](=[C:5]([H:11])[H:12])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8].[O:6]([H:7])[H:13]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],45.9805506329828
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[N:4][H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:15],103.28521289621
[C:1]([O:2][C:3]([N:4]=[C:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],67.0959384549768
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]=[C:5]([C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],70.83574059208932
